US06465472B1
2-Iodomethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline
A suspension of 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline (159 mg, 0.5 mmol) and sodium acetate (82 mg, 1 mmol) in acetone (7 mL) was treated with NaI (90 mg, (0.6 mmol). The mixture was refluxed for 2 h, and then it was poured into ice-water. The precipitated solid was collected by filtration, washed with water, and dried. The crude product was crystallized from EtOAc-hexane to give the title compound as yellow rods (105 mg); mp 155-160° C.; 1H NMR (CDCl3) 7.36 (s, 1H), 7.29 (s, 1H), 7.23 (s, 1H), 7.22 (d, J=6.5, 1H), 6.98 (d, J=8.3, 1H), 6.15 (s, 2H), 6.07 (s, 2H), 4.71 (s, 2H). Anal. calcd. for C17H11IN2O4. (¼)H2O: C, 46.50; H, 2.62; N, 6.38. Found: C, 46.43; H, 2.53; N, 6.28.

reactant | 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline | 0.5 mmol, 159 mg | ClCC1=NC2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3 | C17H11ClN2O4
reactant | sodium acetate | 1 mmol, 82 mg | C(C)(=O)[O-].[Na+]
reactant | NaI | [Na+].[I-]
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | 2-Iodomethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline | ICC1=NC2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3 | C17H11IN2O4
